US05312904
A solution of N-(2-dimethylphosphinothioylethyl)-N-(2-methoxyethyl)-2-benzylthio-2-methylpropylamine (500 mg) in dry tetrahydrofuran (10 cm3) was placed in a flask fitted with a low temperature condenser (-50° C.), drying tube and gas inlet. The flask was flushed with nitrogen, the solution cooled to -50° C., and then dry ammonia (40 cm3) was condensed into the flask. Small pieces of sodium were then added to this mixture until the blue colouration persisted for at least 1 hour. The blue colouration was then discharged by the addition of ammonium chloride, and the mixture allowed to warm to room temperature. As the ammonia evaporated steps were taken to ensure that no air entered the apparatus. [The flask and its contents were then transfered to a glove box containing a nitrogen atmosphere for subsequent operations.] The reaction mixture was then filtered and the solvent removed under reduced pressure to give a yellow oil containing some solid material. The oil was dissolved in chloroform, the solid removed by filtration, and the solvent removed under reduced pressure to give 2-[N-(2-dimethylphosphinoethyl)-2-methoxyethylamino]-1,1-dimethylethanethiol as an oil.

reactant | N-(2-dimethylphosphinothioylethyl)-N-(2-methoxyethyl)-2-benzylthio-2-methylpropylamine | 500 mg | CP(=S)(CCN(CCOC)CC(C)(C)SCC1=CC=CC=C1)C | C18H32NOPS2
reactant | sodium | [Na] | Na
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 cm3 | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-[N-(2-dimethylphosphinoethyl)-2-methoxyethylamino]-1,1-dimethylethanethiol | CP(CCN(CC(S)(C)C)CCOC)C | C11H26NOPS
